US05254549
A vigourously stirred mixture of 40.74 g (0.117 mol) of 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-(tetrahydropyran-2-yloxy)propane and 5.85 g (16.7 mmol) of tetrabutylammonium hydrogen sulphate in 250 ml of dichloromethane and 250 ml of 50% aqueous sodium hydroxide is treated at 0° C. dropwise with 14.32 g (0.140 mol) of acetic anhydride, dissolved in 100 ml of dichloromethane, under a nitrogen atmosphere. After addition is complete, the mixture is reacted for an additional 4--hour period at ambient temperature. Following usual extradtive work-up, 42.69 g (93%) of 3-(4-acetoxy-3,5-di-tert-butylphenyl)-l-(tetrahydropyran-2-yloxy)propane is obtained as a brown viscous liquid, which is used for the following deprotection step without further purification. (C24H38O4 ; F.W. 390.6).

reactant | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-(tetrahydropyran-2-yloxy)propane | 0.117 mol, 40.74 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCCOC1OCCCC1 | C22H36O3
reactant | acetic anhydride | 0.140 mol, 14.32 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | tetrabutylammonium hydrogen sulphate | 16.7 mmol, 5.85 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 250 ml | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(4-acetoxy-3,5-di-tert-butylphenyl)-l-(tetrahydropyran-2-yloxy)propane | 42.69 g, 93% | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)CCCOC1OCCCC1)C(C)(C)C | C24H38O4
